US08349880B2
Step J (3): Dichloromethane (15 mL) was added to a flask charged with a 1:1 mixture of 4-(4-chloro-1H-imidazol-1-yl)-3,5-difluoroaniline/3,5-difluoro-4-(1H-imidazol-1-yl)aniline (1.0 g, 4.36 mmol) and 1,1′-thiocarbonyldipyridin-2(1H)-one (1.012 g, 4.36 mmol). The resulting mixture was stirred for 16 h at rt. The crude reaction mixture was concentrated and the crude products were purified using silica gel chromatography (60% EtOAc/hexanes) to afford 4-chloro-1-(2,6-difluoro-4-isothiocyanatophenyl)-1H-imidazole (195 mg, 0.718 mmol, 17% yield). LC-MS (M+H)+ 272.0. 1H NMR (500 MHz, chloroform-d) δ ppm 7.57 (d, J=1.83 Hz, 1 H) 7.07 (d, J=1.53 Hz, 1 H) 6.94-7.04 (m, 2 H).

reactant | 4-(4-chloro-1H-imidazol-1-yl)-3,5-difluoroaniline 3,5-difluoro-4-(1H-imidazol-1-yl)aniline | 4.36 mmol, 1.0 g | ClC=1N=CN(C1)C1=C(C=C(N)C=C1F)F.FC=1C=C(N)C=C(C1N1C=NC=C1)F
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 4.36 mmol, 1.012 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | Dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-chloro-1-(2,6-difluoro-4-isothiocyanatophenyl)-1H-imidazole | 0.718 mmol, 195 mg, 17% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1F)N=C=S)F | C10H4ClF2N3S
